US04757081
In 400 ml of xylene were dissolved 10.0 g (0.033 mole) of 5-(4-cyanophenyl)-2-methyl-1-phenyl-1,3,5-pentanetrione, 25.0 g (0.26 mole) of aniline and 7.0 g (0.073 mole) of methanesulfonic acid. The solution obtained was heated under reflux for 30 minutes in a reactor fitted with a Dean-Stark apparatus. After cooling, 6.5 g (0.043) of trifluoromethanesulfonic acid was added further to the reaction mixture and the resultant mixture was similarly heated under reflux for 30 minutes. After cooling, solid matter was removed from the reaction mixture, followed by concentration under pressure. The concentrate was extracted with dichloromethane. The organic layer was washed successively with 100 ml of 10% hydrochloric acid, 100 ml of a 10% aqueous solution of sodium hydroxide and water. The organic layer was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was subjected to chromatography on a silica gel column (eluent: ethyl acetate). The resultant crystals were washed with acetone to afford 2.4 g of 6-(4-cyanophenyl)-3-methyl-1,2-diphenyl-4(1H)-pyridinone having a melting point of 229°-233° C.

reactant | 5-(4-cyanophenyl)-2-methyl-1-phenyl-1,3,5-pentanetrione | 0.033 mole, 10.0 g | C(#N)C1=CC=C(C=C1)C(CC(C(C(=O)C1=CC=CC=C1)C)=O)=O | C19H15NO3
reactant | aniline | 0.26 mole, 25.0 g | NC1=CC=CC=C1 | C6H7N
reactant | methanesulfonic acid | 0.073 mole, 7.0 g | CS(=O)(=O)O | CH4O3S
reactant | trifluoromethanesulfonic acid | 6.5 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(4-cyanophenyl)-3-methyl-1,2-diphenyl-4(1H)-pyridinone | 2.4 g | C(#N)C1=CC=C(C=C1)C1=CC(C(=C(N1C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C25H18N2O
